US06500844B1
Step H: 1-(R)-(N-(Methyl)-N-(t-butoxycarbonyl)amino)-3-(S)-((4-(N-(4-nitrobenzyloxycarbonyl)-N-(allyl)amino)piperidin-1-yl)methyl)-4-(S)-phenylcyclopentane
Using essentially the same procedures as in Example 11, Steps C and D but starting with 1-(R)-(N-(methyl)-N-(t-butoxycarbonyl)amino)-3-(S)-(hydroxymethyl)-4-(S)-phenylcyclopentane (Higher Rf isomer) from Step G (257 mg, 0.84 mmol) and using 4-(N-(4-nitrobenzyloxycarbonyl)-N-(allyl)amino)piperidine hydrochloride, the title compound was obtained and was the same as the racemic product from Example 15, [α]D=+15.9 (MeOH, c=0.21).

reactant | 1-(R)-(N-(methyl)-N-(t-butoxycarbonyl)amino)-3-(S)-(hydroxymethyl)-4-(S)-phenylcyclopentane | CN(C(=O)OC(C)(C)C)[C@H]1C[C@@H]([C@H](C1)C1=CC=CC=C1)CO | C18H27NO3
reactant | 4-(N-(4-nitrobenzyloxycarbonyl)-N-(allyl)amino)piperidine hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(COC(=O)N(CC=C)C2CCNCC2)C=C1
product | 1-(R)-(N-(Methyl)-N-(t-butoxycarbonyl)amino)-3-(S)-((4-(N-(4-nitrobenzyloxycarbonyl)-N-(allyl)amino)piperidin-1-yl)methyl)-4-(S)-phenylcyclopentane | CN(C(=O)OC(C)(C)C)[C@H]1C[C@@H]([C@H](C1)C1=CC=CC=C1)CN1CCC(CC1)N(CC=C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C34H46N4O6
